US05244890
To a solution of 1-methyl-4-(3,4-diacetoxybenzoyl)piperazine (295 mg) n methanol (3 ml) was added a saturated potassium carbonate solution is methanol (6 ml) and the mixture was stirred at room temperature for 30 minutes. The mixture was poured into ice water and adjusted to pH 9 with 1N hydrochloric acid. The mixture was extracted several times with a mixture of chloroform and methanol (20:1 V/V) and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized by addition of ethyl acetate to give 1-methyl-4-(3,4-dihydroxybenzoyl)piperazine (71 mg) as white crystal.

reactant | 1-methyl-4-(3,4-diacetoxybenzoyl)piperazine | 295 mg | CN1CCN(CC1)C(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O | C16H20N2O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
product | 1-methyl-4-(3,4-dihydroxybenzoyl)piperazine | 71 mg | CN1CCN(CC1)C(C1=CC(=C(C=C1)O)O)=O | C12H16N2O3
